US07714009B2
N2-Mesityl-1-methyl-N7,N7-dipropyl-1H-benzimidazole-2,7-diamine
To a solution containing 0.05 g (0.18 mmol) of N2-mesityl-1-methyl-1H-benzimidazole-2,7-diamine in methanol (5 ml) was added 0.03 ml (0.54 mmol) of propionaldehyde, 0.03 g (0.54 mmol) of NaBH3CN and 0.1 ml of acetic acid. The mixture was stirred overnight then diluted with ethyl acetate and washed with water. The organic phase was dried over magnesium sulfate. Filtration, removal of solvent and purification of the residue via Biotage chromatography eluting with 5% methanol/dichloromethane gave 0.04 g (70%) of product.

reactant | N2-mesityl-1-methyl-1H-benzimidazole-2,7-diamine | 0.18 mmol, 0.05 g | C1(=C(C(=CC(=C1)C)C)NC1=NC2=C(N1C)C(=CC=C2)N)C | C17H20N4
reactant | propionaldehyde | 0.54 mmol, 0.03 ml | C(CC)=O | C3H6O
reactant | NaBH3CN | 0.54 mmol, 0.03 g | [BH3-]C#N.[Na+]
reactant | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 5 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N2-Mesityl-1-methyl-N7,N7-dipropyl-1H-benzimidazole-2,7-diamine | 0.04 g, 70% | C1(=C(C(=CC(=C1)C)C)NC1=NC2=C(N1C)C(=CC=C2)N(CCC)CCC)C | C23H32N4
